US05302718
Isobutyl 2-hydroxy-5-[2-[4-[(3-methyl-2-pyridinylamino)sulfonyl]phenyl]-ethenyl]benzoate
10% Palladium on charcoal (0.5g) was added to a solution of isobutyl 5-ethenyl-2-hydroxybenzoate (6.6 g, 30mmol) and 4-iodo-N-(3-methyl-2-pyridinyl)benzenesulfonamide (11.2 g, 30 mmol) in dimethylacetamide (10 ml) and tributylamine (10 ml, 42 mmol) at 110° C. After 90 min. the solution was filtered and diluted with isopropanol (0.3 l) and chilled in a freezer. The product was filtered off, dried and dissolved in boiling formic acid (100 ml). The solution was filtered and water (65 ml) was added. After cooling to refrigerator temperature the product was filtered off and dried to yield 7.2 g (51%) product

reactant | isobutyl 5-ethenyl-2-hydroxybenzoate | 30mmol, 6.6 g | C(=C)C=1C=CC(=C(C(=O)OCC(C)C)C1)O | C13H16O3
reactant | 4-iodo-N-(3-methyl-2-pyridinyl)benzenesulfonamide | 30 mmol, 11.2 g | IC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C | C12H11IN2O2S
reactant | tributylamine | 42 mmol, 10 ml | C(CCC)N(CCCC)CCCC | C12H27N
catalyst | Palladium on charcoal | 0.5g | [Pd] | Pd
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | Isobutyl 2-hydroxy-5-[2-[4-[(3-methyl-2-pyridinylamino)sulfonyl]phenyl]-ethenyl]benzoate | 7.2 g, 51% | OC1=C(C(=O)OCC(C)C)C=C(C=C1)C=CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C | C25H26N2O5S
